US07691892B2
c) 3-[5-(3-chlorophenyl)-2H-tetrazol-2-yl]butanoic acid
A mixture of CrO3 (0.46 g, 4.63 mmol), H2O (2.5 mL) and concentrated H2SO4 (0.46 mL) was added to a solution of 3-[5-(3-chlorophenyl)-2H-tetrazol-2-yl]butan-1-ol (0.9 g, 3.6 mmol) in acetone (30 mL) at 0° C. The reaction was stirred at r.t. for 1.5 h. 2-Propanol was added and the mixture was concentrated. Sat. NaCl (25 mL) and EtOAc (50 mL) were added to the residue and the mixture was extracted. The water phase was re-extracted with EtOAc (50 mL) and the combined organic phases were dried (MgSO4) and concentrated to give 0.95 g (100%) of the title compound.

reactant | H2O | 2.5 mL | O | H2O
reactant | H2SO4 | 0.46 mL | OS(=O)(=O)O | H2O4S
reactant | 3-[5-(3-chlorophenyl)-2H-tetrazol-2-yl]butan-1-ol | 3.6 mmol, 0.9 g | ClC=1C=C(C=CC1)C=1N=NN(N1)C(CCO)C | C11H13ClN4O
reactant | 2-Propanol | CC(C)O | C3H8O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 3-[5-(3-chlorophenyl)-2H-tetrazol-2-yl]butanoic acid | 0.95 g, 100% | ClC=1C=C(C=CC1)C=1N=NN(N1)C(CC(=O)O)C | C11H11ClN4O2
